2119-10-31 07:47:00 Physician Resident Progress Note
Chief Complaint: AMS, ?seizure
   24 Hour Events:
   -Dropped OG tube- lavage with blood and clots, no coffee grounds.
   Overnight changed to dark marroon without clots
   -Rectal tube draining motor-oil consistency prior to lactulose
   - ct head negative
   -Hct stable at 9p on abg Hct, INR 1.9
   - Pt is a very tought stick and PICC line is ordered for am
   - neuro consult called- will see pt in am
   -Liver: eventually could start lasix 20 PO daily while following Cr,
   need daily wts, outpt liver f/u w/i 1 wk of d/c, hold on spironolactone
   [**1-21**] renal toxicity, if LE swelling continues- could consider pelvic
   imaging to r/o obstruction given h/o cervical ca
   -CXR with new bilat perihilar opacities
   -Abd u/s with moderate ascites
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-10-31**] 01:06 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2119-10-31**] 12:50 AM
   Midazolam (Versed) - [**2119-10-31**] 04:20 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt unable to give ROS [**1-21**] sedation and
   encephalopathy
   Flowsheet Data as of  [**2119-10-31**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 88 (88 - 110) bpm
   BP: 100/59(69) {91/44(62) - 122/70(142)} mmHg
   RR: 18 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,239 mL
                                                                    946 mL
   PO:
             TF:
   IVF:
                                                                  1,239 mL
                                                                    946 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    980 mL
   Urine:
                                                                    955 mL
                                                                    600 mL
   NG:
   200 mL
   Stool:
   Drains:
   30 mL
   Balance:
                                                                    284 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/43/170/19/-2
   Ve: 7 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Well nourished, No acute distress, trying to reach
   ETT
   Eyes / Conjunctiva: Sclera edema, pupils constricted
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended, abd
   firm. Recal tube putting out motor oil. NG tube putting out dark
   marroon liquid without coffee grounds or  blood clots. CBI light
   pink/yellow. Ostomy with v sm amt yellow, clear liquid.
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Noxious stimuli, Movement: Purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   72 K/uL
   8.0 g/dL
   169 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.9 mEq/L
   15 mg/dL
   120 mEq/L
   147 mEq/L
   25.3 %
   7.0 K/uL
         [image002.jpg]
                            [**2119-10-30**]  05:27 PM
                            [**2119-10-30**]  09:31 PM
                            [**2119-10-31**]  04:16 AM
   WBC
   11.1
   7.0
   Hct
   30.9
   31
   25.3
   Plt
   79
   72
   Cr
   1.2
   1.0
   TCO2
   24
   Glucose
   185
   169
   Other labs: PT / PTT / INR:19.9/34.7/1.9, ALT / AST:18/33, Alk Phos / T
   Bili:61/0.8, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:310 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   Assesment: This is a 68 yo F w/ hx of Hep C cirrhosis, ascitis and
   upper GIB who was found unresposive today
   .
   Plan:
   # Respiratory failure: Hypercarbic failure, due to improper
   ventilation. No oxygenation difficulty hence most likely due to MS
   change. In the setting of liver disease and Hx of encephalopathy during
   this admission most likely due to hepatic encephalopathy.
   - intubation with AC on 400/20 PEEP 5
   - ABG
   - Head CT to eval for possible central etiology of resp failure
   - CxR
   - Infectious w/u
   .
   # MS change: pt initially reported to be unresponsive with seizure:
   detailed describtion of pt consisten with decorticate posturing, no
   shaking, not tonic clonic. Also exam consistent with hepatic
   encephalopathy, also contributing possibly hypercarbic respiratory
   failure and pt was given morphine for pain control which in liver
   cirrhosis significantly can have contributed to her presentation. Neuro
   not focal. Unlikely to be bleed but possible. Currently no indication
   to consider CNS infection as other wise stable no fever and other ddx
   more likely
   - Intubate as above
   - goal Co2 <40
   - lactulose 1000 pr
   - narcane x1 to see if any response
   - head CT to r/o other etiology
   - LP if pt not improving or for any worsening
   - paracentesis to r/o SBP
   - repeat labs to r/o electrolyte disturbance
   - pt was given dilantin initially loading dose but will hold off as
   doubt to be seizure, further more not helping with MS [**First Name (Titles) 43**] [**Last Name (Titles) 2024**]
   delayed in liver cirrhosis
   .
   # Acute on chronic blood loss anemia: secondary to acute on chronic
   bleed. Currently stable. No signs of acute rebleed.
   - 2 large bore peripheral
   - type and screen
   - Liver following: no indication for scope at this moment
   - q8hr HCT, transfuse prn HCT < 27
   - po/sc Vit K, FFP for INR <2
   - Protonix IV 40mg [**Hospital1 **]
   - on ceftriaxone
   - IVF boluse
   .
   # Cirrhosis with secondary complication: most likely due to Hep C as no
   other causes identified.
   - paracentesis to r/o SBP
   - lactulose pr
   - rifaxim
   - no indication for octreotide as no gi bleed and stable HCT
   - diurese if renal function stable with lasix/spirolactone per liver
   rec
   - FFP for INR >2
   - Vit K
   .
   # infectious: pt on ceftriaxone and Flagyl unclear why, will d/c and
   start CIPRO for SBP once paracetesis done. Infectious w/o:
   - B/C
   - Urine culture
   - sputum culture
   .
   # renal failure: most likely prerenal. had no treatment for HRS,
   albumin was given upon which she improved.
   - f/u renal function
   - if any deterioration: check lytes, conside albumin weight based for 2
   days
   .
   # E coli UTI: cont ceftriaxone for now
   .
   # elevated INR: due to poor liver function. unlikley due to GIC, sepsis
   or other causes.
   - Vit K s.c
   - FFP if bleed or inr>2
   .
   # Hep C: followed by liver. this is new diagnosis. unclear how she
   aquired hep C. No acute tratment as inpatient but as outpatient.
   .
   # h/o cervical cancer: with question of rectovaginal fistula, has
   radiation proctitis as seen on scope.
   - followed by urology
   - GYN r/o fistula per cystogram
   - hematouria: per urology most likely due to radiation cystitis in the
   setting of low plt and high INR: to continue bladder irrigation
   .
   # Non gab metabolic acidosis:  hyperchloremic,
   .
   # FEN:   NPO, IVFs, replete lytes prn
   .
   # Access: PIV x 2 (as above)
   .
   # PPx: pneumoboots, PPI
   .
   # Code: Full, confirmed with patient and ICU consent/blood consent
   obtained
   .
   # Dispo: ICU level of care
   .
   # Comm: Significant other: [**First Name4 (NamePattern1) 1729**] [**Name (NI) **] - [**Telephone/Fax (1) 1730**], c [**Telephone/Fax (1) 1731**]
   ICU Care
   Nutrition: NPO for now. OG tube in place
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2119-10-30**] 04:02 PM
   20 Gauge - [**2119-10-31**] 12:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-10-31 11:25:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, GI bleed, anemia, altered
   mental status, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has required increased sedation on the ventilator.
   Has increasing bleeding per OG tube. Hct is falling.
   More alert this AM.
   On PSV 10/5 this AM with excellent oxygenation on FIO2=0.4
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-10-31**] 08:00 AM
   Metronidazole - [**2119-10-31**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2119-10-31**] 12:50 AM
   Midazolam (Versed) - [**2119-10-31**] 09:00 AM
   Other medications:
   Lactulose, rifaximine, chlorhex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-10-31**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 93 (88 - 110) bpm
   BP: 105/53(66) {91/44(62) - 122/70(142)} mmHg
   RR: 6 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,239 mL
                                                                  1,322 mL
   PO:
             TF:
   IVF:
                                                                  1,239 mL
                                                                  1,322 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    980 mL
   Urine:
                                                                    955 mL
                                                                    600 mL
   NG:
   200 mL
   Stool:
   Drains:
   30 mL
   Balance:
                                                                    284 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 232 (232 - 232) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/43/170/19/-2
   Ve: 4.2 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Split S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Few coarse crackles., No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Intermittent guarding.
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not sufficiently responsive to assess,
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed,
   Responds to a few simple questions.
   Labs / Radiology
   8.0 g/dL
   72 K/uL
   169 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.9 mEq/L
   15 mg/dL
   120 mEq/L
   147 mEq/L
   25.3 %
   7.0 K/uL
        [image002.jpg]
                            [**2119-10-30**]  05:27 PM
                            [**2119-10-30**]  09:31 PM
                            [**2119-10-31**]  04:16 AM
   WBC
   11.1
   7.0
   Hct
   30.9
   31
   25.3
   Plt
   79
   72
   Cr
   1.2
   1.0
   TCO2
   24
   Glucose
   185
   169
   Other labs: PT / PTT / INR:19.9/34.7/1.9, ALT / AST:18/33, Alk Phos / T
   Bili:61/0.8, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:310 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: perihilar fullness bilaterally. No infiltrates
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   ACIDOSIS
   Oxygenation excellent. Appears comfortable on vent, although RSBI >120
   this AM. Mental status improved. Would continue on lactulose. Would
   switch from versed and fentanyl to propofol because of concern that
   with decreased liver function, there will be build up of these meds
   with impaired mental status and difficulty weaning from ventilator.  I
   do not feel that an LP is indicated now given the high risk of the
   procedure (with coagulopathy) and the fact that the mental status has
   improved in the past 24 hours on lactulose (and that her deterioration
   was associated with discontinuation of lactulose) making meningitis
   less likely.
   Hct has dropped with evidence of ongoing GI bleeding. Would reconsult
   GI service re: repeat endoscopy. Would transfuse.
   Platelet count remains low, but no need for transfusion. INR still
   below 2.
   Calcium down today. Would replete.
   Non-gap acidosis developing, possibly from diarrhea. Consider repleting
   bicarb to reduce ventilatory requirements in anticipation of weaning
   from mechanical ventilation.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-10-30**] 04:02 PM
   20 Gauge - [**2119-10-31**] 12:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2119-11-01 06:40:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
 PICC LINE - START [**2119-10-31**] 09:30 AM
 BLOOD CULTURED - At [**2119-10-31**] 10:00 AM
 BLOOD CULTURED - At [**2119-10-31**] 12:00 PM
 EEG - At [**2119-10-31**] 01:00 PM
   - Diagnostic paracentesis with only 30 WBC
   - Neuro recommended EEG and LP although our suspicion for meningitis
   was low enough that we deferred LP -> ? MRI after EEG results
   - changed sedation to propafol for attempted weaning and extubation
   - Attempted to contact HCP, but unable to get ahold of her.
   - ET tube rotated
   - Hct remained stable at 27-29.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-10-31**] 08:00 AM
   Ceftriaxone - [**2119-10-31**] 09:25 PM
   Metronidazole - [**2119-10-31**] 11:57 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2119-10-31**] 09:00 AM
   Pantoprazole (Protonix) - [**2119-10-31**] 07:39 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain at this time [**1-21**] pt sedation
   Flowsheet Data as of  [**2119-11-1**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 105 (82 - 111) bpm
   BP: 107/54(65) {76/45(53) - 111/71(78)} mmHg
   RR: 21 (6 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,447 mL
                                                                    341 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                  2,007 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,400 mL
   Urine:
                                                                  1,050 mL
                                                                    200 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    787 mL
                                                                 -1,059 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 460 (232 - 701) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Purposeful, Sedated,
   Tone: Normal
   Labs / Radiology
   91 K/uL
   9.8 g/dL
   108 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   15 mg/dL
   118 mEq/L
   147 mEq/L
   30.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2119-10-30**]  05:27 PM
                            [**2119-10-30**]  09:31 PM
                            [**2119-10-31**]  04:16 AM
                            [**2119-10-31**]  12:01 PM
                            [**2119-10-31**]  01:36 PM
                            [**2119-10-31**]  05:17 PM
                            [**2119-10-31**]  11:38 PM
                            [**2119-11-1**]  04:44 AM
   WBC
   11.1
   7.0
   11.3
   8.9
   Hct
   30.9
   31
   25.3
   29.4
   28.8
   27.1
   28.7
   30.3
   Plt
   79
   72
   93
   91
   Cr
   1.2
   1.0
   0.9
   1.0
   TCO2
   24
   Glucose
   185
   169
   137
   108
   Other labs: PT / PTT / INR:20.0/39.5/1.9, ALT / AST:18/33, Alk Phos / T
   Bili:61/0.8, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL, LDH:310 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   Assessment: This is a 68 yo F w/ hx of Hep C cirrhosis, ascites and
   upper GIB who was found unresponsive [**10-30**]
   .
   Plan:
   # Respiratory failure: Hypercarbic failure, due to improper
   ventilation. No oxygenation difficulty hence most likely due to MS
   change .
   - Pt currently on CPAP with PS 10 and PEEP 5. Will continue to monitor
   -Change to Propofol for sedation from fentanyl versed [**1-21**] hepatic
   metabolism of the later.
   -Would like to get pm RISB and possible SBT.
   .
   # MS change: In the setting of liver disease and Hx of encephalopathy
   during this admission most likely due to hepatic encephalopathy.
   Meningitis considered unlikely without incr WBC or fever. Also given
   coagulopathy and low platelets, risk of LP would be considerable at
   this time.  Neuro exam non-focal but neuro would like MRI to rule out
   mass lesion today.
   - lactulose 1000 pr
   - LP if pt not improving or for any worsening
   - diagnostic paracentesis to r/o SBP today
   -Appreciate neuro recs
   -MRI, EEG head ordered
   .
   # Acute on chronic blood loss anemia: Hct drop from 30 to 25 overnight.
   OG tube now with blood in it
   -Will d/w liver possible need for rpt EGD prior to extubation
   - Rpt Hct now and transfuse for Hct <25.
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # Cirrhosis with secondary complication: most likely due to Hep C as no
   other causes identified.
   - diagnostic paracentesis to r/o SBP
   - lactulose  and rifaximin as ordered
   -IV PPI [**Hospital1 **] as above
   - hold on diuretics for now
   -Cipro at SBP prophylaxis dose
   .
   # h/o fevers: Pt remains afebrile with WBC trending down. pt vanco and
   flagyl unclear why
   - verify need for vanco and/or flagy
   - Ordered Cipro at SBP prophylaxis dose
   - f/u cultures
   .
   # renal failure: Cr now stable at 1.0  Earlier this admission,
   suspicion for  HRS, albumin was given upon which she improved.
   - f/u renal function
   - if any deterioration: check lytes, conside albumin weight based for 2
   days
   .
   # E coli UTI: urine positive from [**10-22**]. Pt no longer on treatment for
   this. Will f/u abx needs today.
   .
   # elevated INR: 1.9 yesterday.  due to poor liver function. unlikley
   due to GIC, sepsis or other causes.
   - FFP if bleed or inr>2
   .
   # Hep C: followed by liver. this is new diagnosis. unclear how she
   aquired hep C. No acute tratment as inpatient but as outpatient, this
   will be needed.
   .
   # h/o cervical cancer: rectovaginal fistula, has radiation proctitis as
   seen on scope and radiation cystitis on CBI.
   - followed by urology
   - hematouria: per urology most likely due to radiation cystitis in the
   setting of low plt and high INR: to continue bladder irrigation
   .
   # Non gap metabolic acidosis:  hyperchloremic. Possibly [**1-21**] diarrhea.
   Will continue to monitor and consider bicarb if worstens.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2119-10-30**] 04:02 PM
   20 Gauge - [**2119-10-31**] 12:30 AM
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-01 11:34:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, cirrhosis, acute respiratory
   failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Propofol stopped. Patient extubated this AM. O2 sats good on O2 via
   open mask.
   EEG yesterday reportedly "abnormal." Details not available. Bedside
   telemetry to be started. No evidence of seizure activity overnight.
   Afebrile.
   24 Hour Events:
 PICC LINE - START [**2119-10-31**] 09:30 AM
 BLOOD CULTURED - At [**2119-10-31**] 10:00 AM
 BLOOD CULTURED - At [**2119-10-31**] 12:00 PM
 EEG - At [**2119-10-31**] 01:00 PM
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-10-31**] 08:00 AM
   Ceftriaxone - [**2119-10-31**] 09:25 PM
   Metronidazole - [**2119-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-10-31**] 07:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-1**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 101 (82 - 111) bpm
   BP: 108/69(77) {76/45(53) - 111/71(107)} mmHg
   RR: 21 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,447 mL
                                                                    493 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                  2,007 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                  1,400 mL
   Urine:
                                                                  1,050 mL
                                                                    200 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    787 mL
                                                                   -907 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 460 (437 - 701) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : Both
   bases), (Breath Sounds: No(t) Clear : , Crackles : bilateral above
   areas of dullness, Bronchial: Rare, No(t) Wheezes : , No(t) Diminished:
   , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   91 K/uL
   108 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   15 mg/dL
   118 mEq/L
   147 mEq/L
   30.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2119-10-30**]  05:27 PM
                            [**2119-10-30**]  09:31 PM
                            [**2119-10-31**]  04:16 AM
                            [**2119-10-31**]  12:01 PM
                            [**2119-10-31**]  01:36 PM
                            [**2119-10-31**]  05:17 PM
                            [**2119-10-31**]  11:38 PM
                            [**2119-11-1**]  04:44 AM
   WBC
   11.1
   7.0
   11.3
   8.9
   Hct
   30.9
   31
   25.3
   29.4
   28.8
   27.1
   28.7
   30.3
   Plt
   79
   72
   93
   91
   Cr
   1.2
   1.0
   0.9
   1.0
   TCO2
   24
   Glucose
   185
   169
   137
   108
   Other labs: PT / PTT / INR:19.8/39.5/1.8, ALT / AST:18/33, Alk Phos / T
   Bili:61/0.8, Differential-Neuts:81.7 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.6 %, Eos:3.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL,
   LDH:310 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: supine film - probable bilateral pleural effusions. Heart
   size acceptable given AP film. Possible basilar atelectasis.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   HYPERNATREMIA
   PLEURAL EFFUSIONS
   Respiratory status much improved. Oxygenation good off of supplemental
   oxygen on rounds. Bilateral pleural effusions likely from total body
   volume overload and hypoalbuminemia. Will start lasix and aldactone.
   Will need to replete free water deficit and additional maintenance
   losses with diuretic; calculated free water deficit is 2.1 L.
   Hct has been stable. No evidence of ongonig bleeding.
   Mental status improved. Continue on lactulose.
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-10-30**] 04:02 PM
   20 Gauge - [**2119-10-31**] 12:30 AM
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-11-02 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, anemia, altered mental status,
   cirrhosis, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to do well post extubation. Oxygen saturation excellent off
   supplemental oxygen.
   Mental status improved -alert and oriented. No evidence of seizure
   activity. Now on Kepra. Final report on MRI pending.
   Hct drifting down slowlly.
   Platelets between 70-90K
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2119-11-1**] 10:13 PM
   brain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-10-31**] 08:00 AM
   Ceftriaxone - [**2119-10-31**] 09:25 PM
   Metronidazole - [**2119-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-11-1**] 10:00 PM
   Other medications:
   Protonix, lactulose, spironolactone, lasix, Kepra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-2**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 98 (83 - 111) bpm
   BP: 112/64(75) {92/38(60) - 120/84(88)} mmHg
   RR: 27 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,602 mL
                                                                  1,050 mL
   PO:
                                                                    140 mL
             TF:
   IVF:
                                                                  1,402 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  1,200 mL
   Urine:
                                                                  2,100 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,498 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Diffuse rales, posteriorally
   and anteriorally, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Somewhat somnolent
   Labs / Radiology
   8.6 g/dL
   70 K/uL
   144 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   15 mg/dL
   116 mEq/L
   146 mEq/L
   26.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2119-10-31**]  04:16 AM
                            [**2119-10-31**]  12:01 PM
                            [**2119-10-31**]  01:36 PM
                            [**2119-10-31**]  05:17 PM
                            [**2119-10-31**]  11:38 PM
                            [**2119-11-1**]  04:44 AM
                            [**2119-11-1**]  02:57 PM
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
   WBC
   7.0
   11.3
   8.9
   5.9
   Hct
   25.3
   29.4
   28.8
   27.1
   28.7
   30.3
   25.8
   28.9
   26.5
   Plt
   72
   93
   91
   70
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   169
   137
   108
   191
   144
   Other labs: PT / PTT / INR:21.9/40.9/2.1, ALT / AST:18/33, Alk Phos / T
   Bili:61/0.8, Differential-Neuts:81.7 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.6 %, Eos:3.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL,
   LDH:310 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   ALTERED MENTAL STATUS
   CIRRHOSIS
   COAGULOPATHY
   Patient doing well off of ventilator with good oxygenation, no
   respiratory distress.
   Mental status remains good but she is more somnolent today; may be
   related to ativan that she got for MRI last night. An abnormality was
   seen on MRI, but final interpretation of data is pending. No evidence
   of seizure activity.
   Hct has been a bit erratic in past  but may be dropping. [**Month (only) 11**] have
   urinary and/or GI losses. No need for transfusion now.  INR 2.1.
   Consider FFP if hct drops more significantly.
   More rales on exam today. Obtain CXR. Patient had negative fluid
   balance yesterday. Mucus membranes moist.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-10-30**] 04:02 PM
   20 Gauge - [**2119-10-31**] 12:30 AM
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2119-11-03 10:59:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory faliure, cirrhosis, altered mental
   status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRI interpretation indicates old infarction.
   Failed speech and swallow test. NG placed for administration of
   lactulose.
   Afebrile. Hemodynamically stable.
   Oxygen saturation good off supplemental oxygen.
   Hct stable.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-10-31**] 09:25 PM
   Metronidazole - [**2119-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-2**] 07:55 PM
   Other medications:
   Lactulose, spironolactone, lasix, kepra, CaCarbonate, zofran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-3**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 103 (90 - 110) bpm
   BP: 101/57(68) {97/49(63) - 121/74(86)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  3,650 mL
                                                                  1,205 mL
   PO:
             TF:
   IVF:
                                                                  3,350 mL
                                                                  1,085 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
                                                                  2,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,150 mL
                                                                  1,205 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Diffusely, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   74 K/uL
   140 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   13 mg/dL
   113 mEq/L
   144 mEq/L
   26.8 %
   5.8 K/uL
        [image002.jpg]
                            [**2119-10-31**]  05:17 PM
                            [**2119-10-31**]  11:38 PM
                            [**2119-11-1**]  04:44 AM
                            [**2119-11-1**]  02:57 PM
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
                            [**2119-11-2**]  03:31 PM
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
   WBC
   8.9
   5.9
   5.3
   6.1
   5.8
   Hct
   27.1
   28.7
   30.3
   25.8
   28.9
   26.5
   26.7
   27.8
   26.8
   Plt
   91
   70
   70
   82
   74
   Cr
   0.9
   1.0
   1.0
   1.0
   0.9
   1.0
   0.9
   Glucose
   137
   108
   191
   144
   671
   158
   140
   Other labs: PT / PTT / INR:21.8/40.8/2.0, ALT / AST:20/24, Alk Phos / T
   Bili:71/1.1, Differential-Neuts:81.7 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.6 %, Eos:3.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:258 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: minimal increase in interstitial markings.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   COAGULOPATHY
   Continues to do well from a respiratory standpoint off the ventilator.
   Has persistent rales, but oxygenation is good, and CXR shows only
   minimal increase in interstitial markings. Continue to follow.
   Mental status greatly improved this AM; yesterday's problems may have
   been related to ativan given for procedure. No evidence of seizures.
   INR stable at 2. Lactulose continues for hepatic encephalopathy.
   Hct stable. No evidence of bleeding. No need for transfusion now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not indicated
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2119-11-04 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gyn re-consulted and recommended getting colorectal surgery involved.
   - Speech and swallow re-evaled and recommended purees for comfort only
   with nursing supervision.  Tube feeds for now and will re-eval on
   Monday.
   - Surgery was called but unable to get a hold of [**Hospital Ward Name **] surgery.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-11-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-4**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 105 (84 - 108) bpm
   BP: 95/54(63) {94/24(47) - 110/65(75)} mmHg
   RR: 24 (22 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,173 mL
                                                                    119 mL
   PO:
             TF:
                                                                     40 mL
                                                                     59 mL
   IVF:
                                                                  1,803 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                      0 mL
   Urine:
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: NAD, Aox3 but quite somnolent
   CV: RRR no M/R/G
   Pulm: CTAB anteriorly
   Abd: soft, NT, mild distention, Abrasion on LLQ from bandages
   Extr: 3+ edema, restraints for pulling NG tube
   Neuro: Aox3, but somnolent and mildly confused, difficulty with complex
   instructions.  No asterixis, CN grossly intact, non-focal.
   Labs / Radiology
   74 K/uL
   8.4 g/dL
   140 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   13 mg/dL
   113 mEq/L
   144 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                            [**2119-11-1**]  04:44 AM
                            [**2119-11-1**]  02:57 PM
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
                            [**2119-11-2**]  03:31 PM
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
   WBC
   8.9
   5.9
   5.3
   6.1
   5.8
   5.3
   Hct
   30.3
   25.8
   28.9
   26.5
   26.7
   27.8
   26.8
   27.6
   25.6
   Plt
   91
   70
   70
   82
   74
   74
   Cr
   1.0
   1.0
   1.0
   0.9
   1.0
   0.9
   Glucose
   108
   191
   144
   [**Telephone/Fax (3) 2179**]
   Other labs: PT / PTT / INR:21.8/40.8/2.0, ALT / AST:20/24, Alk Phos / T
   Bili:71/1.1, Differential-Neuts:81.7 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.6 %, Eos:3.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:258 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   68 yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes
   .
   # MS change: In the setting of liver disease and Hx of encephalopathy
   during this admission most likely due to hepatic encephalopathy. MRI
   brain with old infarcts
   - F/U final MRI read
   - Neuro recs based on MRI
   - continue Keppra
   - lactulose 60 PO QID scheduled
   .
   # Acute on chronic blood loss anemia: Hct stable at 25-30 range.  Most
   likely loss is either upper GI or from CBI. Urology called and stated
   they did not need to see the patient, just continue CBI.
   - f/u liver  recs
   - f/u pm Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # Cirrhosis with secondary complication: most likely due to Hep C as no
   other causes identified.
   - lactulose  and rifaximin as ordered
   - IV PPI [**Hospital1 **] as ordered
   - consider reduced lasix and spironolactone
   .
   # elevated INR: 2.0  today.  due to poor liver function. unlikley due
   to GIC, sepsis or other causes.
   - FFP if bleed
   .
   # h/o cervical cancer: rectovaginal fistula, has radiation proctitis as
   seen on scope and radiation cystitis on CBI.
   - will call OB/Gyn today for further input given continued bleeding
   - hematuria: per urology: to continue bladder irrigation
   .
   # Non gap metabolic acidosis:  now resolved
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-3**] 08:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-04 11:31:00 Physician Attending Progress Note
Chief Complaint: acute respiratory failure, cirrhosis, altered MS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   68 yr old with GI bleed, found to be HCV cirrhosis, AFP 11. Had
   endoscopy. Transferred back to [**Hospital Unit Name 10**] with altered MS. CT head showed old
   infarct. Tx with rifaximin, lactulose.
   24 hr events - seen by speech and swallow.  Mental status remains
   clear. Remains on CBI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-4**] 08:00 AM
   Other medications:
   Rifaximin, Protonix, lactulose 60 TID, aldactone, SCH, lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2119-11-4**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 96 (84 - 108) bpm
   BP: 106/57(67) {93/24(47) - 107/59(75)} mmHg
   RR: 23 (22 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,173 mL
                                                                    316 mL
   PO:
             TF:
                                                                     40 mL
                                                                    194 mL
   IVF:
                                                                  1,803 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    875 mL
   Urine:
                                                                    550 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                   -559 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, mild distention
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   74 K/uL
   108 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   14 mg/dL
   115 mEq/L
   144 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                            [**2119-11-1**]  04:44 AM
                            [**2119-11-1**]  02:57 PM
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
                            [**2119-11-2**]  03:31 PM
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
   WBC
   8.9
   5.9
   5.3
   6.1
   5.8
   5.3
   Hct
   30.3
   25.8
   28.9
   26.5
   26.7
   27.8
   26.8
   27.6
   25.6
   Plt
   91
   70
   70
   82
   74
   74
   Cr
   1.0
   1.0
   1.0
   0.9
   1.0
   0.9
   0.9
   Glucose
   108
   191
   144
   [**Telephone/Fax (3) 2179**]
   108
   Other labs: PT / PTT / INR:20.8/37.5/2.0, ALT / AST:17/24, Alk Phos / T
   Bili:74/1.1, Differential-Neuts:81.7 %, Band:0.0 %, Lymph:10.3 %,
   Mono:4.6 %, Eos:3.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:245 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   Doing well with mental status improvement, oriented, no complaints. No
   evidence of seizures.
   Continue lactulose, raximin
   HCV cirrhosis with coagulopathy. Will give additional vit K.
   EV fistula- will touch base with surgery
   Hematuria with urine clear on CBI. Urology was involved. Will likely
   need cystoscopy.
   Tube feeds for failed speech and swallow eval.
   Access- picc
   [**Last Name (un) 1701**] for transfer to floor.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-3**] 08:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 33 minutes
   Patient is critically ill

2119-11-05 07:28:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2119-11-4**] 05:32 PM
 ENDOSCOPY - At [**2119-11-4**] 06:12 PM
   - Called Out
   - Blood Seen through NG Tube
   - Called Back in
   - Additional Peripheral Placed
   - Intubated
   - Scoped by Liver that found Grade 3 esophageal varices without active
   bleeding and subsequent ligation as well as portal hypertensive
   gastropathy.
   - Subsequent Extubation without complication
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-4**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2119-11-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 87 (81 - 110) bpm
   BP: 91/48(57) {84/18(47) - 130/86(93)} mmHg
   RR: 19 (7 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,325 mL
                                                                    608 mL
   PO:
           TF:
                                                                    309 mL
   IVF:
                                                                    916 mL
                                                                    551 mL
   Blood products:
   56 mL
   Total out:
                                                                    600 mL
                                                                    850 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    725 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 252 (252 - 252) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   64 K/uL
   6.5 g/dL
   134 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   19 mg/dL
   119 mEq/L
   147 mEq/L
   19.3 %
   5.8 K/uL
        [image002.jpg]
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
                            [**2119-11-2**]  03:31 PM
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
   WBC
   5.9
   5.3
   6.1
   5.8
   5.3
   5.8
   Hct
   28.9
   26.5
   26.7
   27.8
   26.8
   27.6
   25.6
   25.7
   19.3
   Plt
   70
   70
   82
   74
   74
   64
   Cr
   1.0
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   1.0
   Glucose
   191
   144
   671
   158
   140
   108
   162
   134
   Other labs: PT / PTT / INR:21.3/38.1/2.0, ALT / AST:17/24, Alk Phos / T
   Bili:74/1.1, Differential-Neuts:70.9 %, Band:0.0 %, Lymph:17.2 %,
   Mono:5.5 %, Eos:6.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:245 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes
   .
   # MS change: Resolved (Likley was hepatic encephalopathy vs post-ictal)
   - continue Keppra  increase to 750 [**Hospital1 **] with goal of 1gm [**Hospital1 **]
   - rifaxamin and lactulose
   .
   # Anemia: Hct stable at 25-30 range.  Most likely loss is either upper
   GI or from CBI.
   - f/u liver  recs
   - pm Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # HCV Cirrhosis: Stable. AFP 11
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone
   - IV PPI [**Hospital1 **] as ordered
   - consider reduced lasix and spironolactone
   .
   # Coagulopathy:  INR: 2.0  today.  Likely [**1-21**]  to poor synthetic
   function.
   - Vit K today
   - FFP if bleed
   .
   # h/o cervical cancer: rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Consider surgery consult today.
   - Hematuria: Continue bladder irrigation
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-4**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-05 22:48:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2119-11-4**] 05:32 PM
 ENDOSCOPY - At [**2119-11-4**] 06:12 PM
   - Called Out
   - Blood Seen through NG Tube
   - Called Back in
   - Additional Peripheral Placed
   - Intubated
   - Scoped by Liver that found Grade 3 esophageal varices without active
   bleeding and subsequent ligation as well as portal hypertensive
   gastropathy.
   - Subsequent Extubation without complication
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-4**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2119-11-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 87 (81 - 110) bpm
   BP: 91/48(57) {84/18(47) - 130/86(93)} mmHg
   RR: 19 (7 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,325 mL
                                                                    608 mL
   PO:
           TF:
                                                                    309 mL
   IVF:
                                                                    916 mL
                                                                    551 mL
   Blood products:
   56 mL
   Total out:
                                                                    600 mL
                                                                    850 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    725 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 252 (252 - 252) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   64 K/uL
   6.5 g/dL
   134 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   19 mg/dL
   119 mEq/L
   147 mEq/L
   19.3 %
   5.8 K/uL
        [image002.jpg]
                            [**2119-11-1**]  05:19 PM
                            [**2119-11-1**]  11:48 PM
                            [**2119-11-2**]  03:45 AM
                            [**2119-11-2**]  03:31 PM
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
   WBC
   5.9
   5.3
   6.1
   5.8
   5.3
   5.8
   Hct
   28.9
   26.5
   26.7
   27.8
   26.8
   27.6
   25.6
   25.7
   19.3
   Plt
   70
   70
   82
   74
   74
   64
   Cr
   1.0
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   1.0
   Glucose
   191
   144
   671
   158
   140
   108
   162
   134
   Other labs: PT / PTT / INR:21.3/38.1/2.0, ALT / AST:17/24, Alk Phos / T
   Bili:74/1.1, Differential-Neuts:70.9 %, Band:0.0 %, Lymph:17.2 %,
   Mono:5.5 %, Eos:6.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL,
   LDH:245 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes
   .
   # MS change: Resolving (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra  increase to 750 [**Hospital1 **] with goal of 1gm [**Hospital1 **]
   - rifaxamin and lactulose
   .
   # Anemia: Hct this am 19- given 2 units Prbcs but then bumped to 28.
   Thus ? if am Hct was correct..  Likely [**1-21**] UGIB from esophageal varices
   seen on  EGD yesterday
   -Cont octreotide gtt, sucralfate
   - f/u liver  recs
   -Q6 hrs Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # HCV Cirrhosis: Stable. AFP 11
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone
   - IV PPI [**Hospital1 **] as ordered
   - consider reduced lasix and spironolactone
   .
   # Coagulopathy:  INR: 2.0  today.  Likely [**1-21**]  to poor synthetic
   function.
   - Vit K today
   - FFP if bleed or procedure
   .
   # h/o cervical cancer: rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Consider surgery consult when pt more stable
   - Hematuria: Continue bladder irrigation
   ICU Care
   Nutrition: NPO for now- per speech and swallow will continue to need
   primary nutrition by NGT but this has not yet been restarted [**1-21**]
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-4**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-06 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family seems to be a bit unclear about pt's severity of illness at
   this time. Will try for family mtg Mon or Tues.
   -Am Hct 19- given 2 units PRBCs. Bumped to 28. Thus, ? if 19 this am
   was real.
   -No Uro or gyn recs today
   -Giving D5W at 150cc/hr for Hypernatremia to 149 in the afternoon
   -Repleted lytes PRN
   -Gave Vit K POx1 for INR 2.0
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-6**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 76 (76 - 103) bpm
   BP: 113/55(70) {86/49(61) - 121/68(76)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,223 mL
                                                                  1,028 mL
   PO:
             TF:
   IVF:
                                                                  2,667 mL
                                                                  1,028 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                  2,050 mL
                                                                    500 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: NAD, Aox3
   CV: RRR no M/R/G
   Pulm: some coarse crackles,  anteriorly
   Abd: soft, NT, mild distention
   Extr: 3+ edema but much improved, Pulses 2 + symmetric
   Neuro: Aox3, No asterixis, CN grossly intact, non-focal.
   Labs / Radiology
   83 K/uL
   9.6 g/dL
   249 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   117 mEq/L
   145 mEq/L
   28.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
                            [**2119-11-5**]  01:44 PM
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
   WBC
   6.1
   5.8
   5.3
   5.8
   9.2
   Hct
   27.8
   26.8
   27.6
   25.6
   25.7
   19.3
   28.0
   26.8
   26.2
   28.4
   Plt
   82
   74
   74
   64
   83
   Cr
   1.0
   0.9
   0.9
   1.0
   1.0
   1.1
   1.0
   Glucose
   158
   140
   108
   162
   134
   186
   249
   Other labs: PT / PTT / INR:20.3/36.4/1.9, ALT / AST:18/26, Alk Phos / T
   Bili:82/1.3, Differential-Neuts:70.9 %, Band:0.0 %, Lymph:17.2 %,
   Mono:5.5 %, Eos:6.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:258 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes
   .
   # MS change: Resolving (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra 750 [**Hospital1 **] with goal of 1gm [**Hospital1 **]
 rediscuss with neuro
   if this is needed
   - rifaxamin and lactulose
   .
   # Anemia: Hct this am 28 after 2 units Prbcs.  Likely [**1-21**] UGIB from
   esophageal varices seen on  EGD [**2119-11-4**]
   -Cont octreotide gtt, sucralfate
   - f/u liver  recs
   - [**Hospital1 **] Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # HCV Cirrhosis: Stable.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone
   - IV PPI [**Hospital1 **] as ordered
   - consider reduced lasix and spironolactone
   .
   # Coagulopathy:  INR: 1.9  today.  Likely [**1-21**]  to poor synthetic
   function.
   - FFP if bleed or procedure
   .
   # h/o cervical cancer: rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Consider surgery consult when pt more stable
   - Hematuria: Continue bladder irrigation
   ICU Care
   Nutrition: Speech and swallow to re-eval today, Replace NG tube for TF
   and meds
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-4**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full Code
   Disposition: Call out to floor

2119-11-06 12:46:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, acute respiratory failure, GI
   bleed, anemia, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had hct drop over weekend. Underwent endoscopy, which showed
   varices (they were banded) but no active bleeding. Had been intubated
   for the procedure; subsequently extubated.
   Continues to receive lactulose for her hepatic encephalopathy; mental
   status improving .
   O2 saturation 100% off supplemental oxygen.
   No pain or shortness of breath.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-6**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 75 (75 - 103) bpm
   BP: 122/55(70) {105/50(64) - 122/68(76)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,223 mL
                                                                  1,687 mL
   PO:
             TF:
   IVF:
                                                                  2,667 mL
                                                                  1,687 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                  2,050 mL
                                                                    500 mL
   Urine:
                                                                    950 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                  1,187 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , Crackles : Rare rale in dependent lung with patient
   in right lateral decubitus position, No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   83 K/uL
   249 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   117 mEq/L
   145 mEq/L
   28.4 %
   9.2 K/uL
        [image002.jpg]
                            [**2119-11-2**]  07:22 PM
                            [**2119-11-3**]  03:58 AM
                            [**2119-11-3**]  04:00 PM
                            [**2119-11-4**]  04:17 AM
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
                            [**2119-11-5**]  01:44 PM
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
   WBC
   6.1
   5.8
   5.3
   5.8
   9.2
   Hct
   27.8
   26.8
   27.6
   25.6
   25.7
   19.3
   28.0
   26.8
   26.2
   28.4
   Plt
   82
   74
   74
   64
   83
   Cr
   1.0
   0.9
   0.9
   1.0
   1.0
   1.1
   1.0
   Glucose
   158
   140
   108
   162
   134
   186
   249
   Other labs: PT / PTT / INR:20.3/36.4/1.9, ALT / AST:18/26, Alk Phos / T
   Bili:82/1.3, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:12.7 %,
   Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:258 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   Patient's status improving. Hemodynamically stable. Hct has held since
   transfusions. Continue to monitor hct. INR under 2.
   Mental status much improved since last week. Continue lactulose. Not
   clear patient ever had seizures. Discuss with neuro service whether
   patient needs ongoing anti-epileptic meds. Patient still having
   problems with swallowing; at risk for aspiration. NG tube to be
   replaced.
   ICU Care
   Nutrition: tube feeding
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-4**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2119-11-07 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient called back in after she vomitted up ~50 cc of blood after NG
   tube placement and began to pass melenic stool.
   - Stat Hct with 3 point drop -> transfused 1 U and repeat was 21 ->
   transfused 2 more U PRBC.
   - Liver recommended starting higher dose of lasix in AM
   - Surgery called but provided no further recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2119-11-6**] 05:30 PM
   Pantoprazole (Protonix) - [**2119-11-6**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-7**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 79 (75 - 99) bpm
   BP: 107/44(60) {92/44(59) - 122/69(76)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  3,615 mL
                                                                    553 mL
   PO:
           TF:
                                                                     53 mL
                                                                     83 mL
   IVF:
                                                                  2,378 mL
                                                                     51 mL
   Blood products:
                                                                    934 mL
                                                                    419 mL
   Total out:
                                                                  1,050 mL
                                                                  1,800 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,565 mL
                                                                 -1,247 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   Gen: NAD, Aox3
   CV: RRR no M/R/G
   Pulm: some coarse crackles,  anteriorly
   Abd: soft, NT, mild distention
   Extr: 3+ edema but much improved, Pulses 2 + symmetric
   Neuro: Aox3, No asterixis, CN grossly intact, non-focal.
   Labs / Radiology
   45 K/uL
   10.7 g/dL
   250 mg/dL
   0.9 mg/dL
   21 mEq/L
   6.6 mEq/L
   18 mg/dL
   110 mEq/L
   145 mEq/L
   29.9 %
   6.2 K/uL
        [image002.jpg]
                            [**2119-11-4**]  04:17 AM
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
                            [**2119-11-5**]  01:44 PM
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
                            [**2119-11-6**]  03:48 PM
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
   WBC
   5.3
   5.8
   9.2
   7.5
   6.2
   Hct
   25.6
   25.7
   19.3
   28.0
   26.8
   26.2
   28.4
   25.1
   21.4
   29.9
   Plt
   74
   64
   83
   69
   45
   Cr
   0.9
   1.0
   1.0
   1.1
   1.0
   0.9
   0.9
   Glucose
   108
   162
   134
   186
   249
   206
   250
   Other labs: PT / PTT / INR:18.4/36.0/1.7, ALT / AST:14/25, Alk Phos / T
   Bili:63/1.6, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:12.7 %,
   Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:251 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes
   .
   # MS change: Resolving (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra 750 [**Hospital1 **] with goal of 1gm [**Hospital1 **]
 rediscuss with neuro
   if this is needed
   - rifaxamin and lactulose
   .
   # Anemia: Hct this am 28 after 2 units Prbcs.  Likely [**1-21**] UGIB from
   esophageal varices seen on  EGD [**2119-11-4**]
   -Cont octreotide gtt day 3 of 5, sucralfate
   - f/u liver  recs
   - [**Hospital1 **] Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   .
   # HCV Cirrhosis: Stable.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.9  today.  Likely [**1-21**]  to poor synthetic
   function.
   - FFP if bleed or procedure
   .
   # h/o cervical cancer: rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Consider surgery consult when pt more stable
   - Hematuria: Continue bladder irrigation
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-6**] 06:41 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-11-07 11:31:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, GI bleed, anemia,
   coagulopathy, cirrhosis, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct 29 this AM. Transfused overnight. NG sampling this AM was negative
   for blood. Maroon stool noted.
   Patient denies dizziness.
   Oxygen saturation good off supplemental oxygen.
   Blood pressure has been stable throughout the night.
   Given platelet transfusion for count of 45K.
   Lactic acid mildly elevated this AM.
   INR somewhat improved following transfusion with FFP.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2119-11-6**] 05:30 PM
   Pantoprazole (Protonix) - [**2119-11-6**] 08:19 PM
   Other medications:
   Lactulose, sucralfate, octreotide, insulin, lasix, spironolactone,
   calcium gluconate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-7**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.6
   HR: 81 (75 - 99) bpm
   BP: 135/67(85) {92/44(59) - 135/103(106)} mmHg
   RR: 22 (22 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
           Total In:
                                                                  3,839 mL
                                                                  1,487 mL
   PO:
           TF:
                                                                    277 mL
                                                                    291 mL
   IVF:
                                                                  2,378 mL
                                                                    193 mL
   Blood products:
                                                                    934 mL
                                                                    942 mL
   Total out:
                                                                  1,050 mL
                                                                  3,500 mL
   Urine:
                                                                    600 mL
                                                                  2,300 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,789 mL
                                                                 -2,013 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : few, scattered, No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing, [**2-21**]+
   edema of thighs
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   64 K/uL
   250 mg/dL
   0.9 mg/dL
   21 mEq/L
   5.7 mEq/L
   18 mg/dL
   110 mEq/L
   145 mEq/L
   29.3 %
   6.2 K/uL
        [image002.jpg]
                            [**2119-11-4**]  04:51 PM
                            [**2119-11-5**]  04:33 AM
                            [**2119-11-5**]  01:44 PM
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
                            [**2119-11-6**]  03:48 PM
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
   WBC
   5.8
   9.2
   7.5
   6.2
   Hct
   25.7
   19.3
   28.0
   26.8
   26.2
   28.4
   25.1
   21.4
   29.9
   29.3
   Plt
   64
   83
   69
   45
   64
   Cr
   1.0
   1.0
   1.1
   1.0
   0.9
   0.9
   Glucose
   162
   134
   186
   249
   206
   250
   Other labs: PT / PTT / INR:18.4/36.0/1.7, CK / CKMB / Troponin-T:54//,
   ALT / AST:14/25, Alk Phos / T Bili:63/1.6, Differential-Neuts:78.1 %,
   Band:0.0 %, Lymph:12.7 %, Mono:4.2 %, Eos:4.5 %, Lactic Acid:3.2
   mmol/L, Albumin:2.6 g/dL, LDH:251 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   CIRRHOSIS
   HYPOCALCEMIA
   Oxygenation remains good off the ventilator.
   Bleeding appears to have stopped or slowed. Passing maroon stool that
   problably represents residual from the UGI hemorrhage. Octreotide
   continues. Coagulopathy a bit better following FFP.
   Continues on lactulose for encephalopathy.
   Calcium being replaced. Would also replete magnesium.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-7**] 03:54 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2119-11-08 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2 FFP, 1 Platelets given
   - No further episodes of hemoptysis
   - Lactate from 3.2 to 1.5
   - Hct drop this AM to 25, repeat 27.1
   - Patient nauseous, but no residuals -> states she
s hungry this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2119-11-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-8**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 71 (64 - 93) bpm
   BP: 128/43(63) {98/43(63) - 135/103(106)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  3,188 mL
                                                                  1,046 mL
   PO:
             TF:
                                                                    533 mL
                                                                    196 mL
   IVF:
                                                                    800 mL
                                                                    805 mL
   Blood products:
                                                                  1,494 mL
   Total out:
                                                                  4,690 mL
                                                                    900 mL
   Urine:
                                                                  2,450 mL
                                                                    200 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,502 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: NAD, thin
   HEENT: NG tube in place, MMM
   CV: RRR, No M/R/G
   Pulm: CTAB anteriorly
   Abd: soft NT/ND, BS +, rectal back draining brown/yellow stool, no
   further melena
   Extr: 3+ edema at ankles, pulses present
   Labs / Radiology
   66 K/uL
   8.9 g/dL
   238 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   117 mEq/L
   145 mEq/L
   25.2 %
   7.7 K/uL
        [image002.jpg]
                            [**2119-11-5**]  01:44 PM
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
                            [**2119-11-6**]  03:48 PM
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
   WBC
   9.2
   7.5
   6.2
   8.6
   7.7
   Hct
   28.0
   26.8
   26.2
   28.4
   25.1
   21.4
   29.9
   29.3
   28.5
   25.2
   Plt
   83
   69
   45
   64
   69
   66
   Cr
   1.1
   1.0
   0.9
   0.9
   1.1
   1.1
   Glucose
   186
   249
   206
   [**Telephone/Fax (3) 2301**]
   Other labs: PT / PTT / INR:17.8/34.4/1.6, CK / CKMB / Troponin-T:54//,
   ALT / AST:19/27, Alk Phos / T Bili:85/1.3, Differential-Neuts:78.1 %,
   Band:0.0 %, Lymph:12.7 %, Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:278 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes, now clear, now with likely
   Upper GIB
   .
   # Nausea/Vomitting: non-bloody.  Occurs primarily when meds given down
   NG tube.  No residuals on tube feeds.
   - hold TF for now
   - Attempt to pre-treat with Zofran
   - give lactulose first as this is most important for her MS
   - If unable to tolerate, consider PR lactulose
   .
   # Anemia: Hct stablized yesterday after 3 U on [**2119-11-6**].
   Hemodynamically stable.  Most likely from GU. Lactate back down last
   PM.
   - Cont octreotide gtt day 5 of 5, sucralfate
   - f/u liver  recs
   - [**Hospital1 **] Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   - Urology to see her today about hematuria
   .
   # MS changed: Now Resolved: (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra prophylaxis per neuro
   - Cont rifaxamin and lactulose
   - can give PR lactulose as above.
   .
   # HCV Cirrhosis: Stable.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone (Now increased to 60, 100 respectively per
   Liver Recs)
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.6  today. Got 3 FFP early yesterday.
   - Give 2 U FFP today for continued GU bleeding
   - Cont to monitor Hcts and INR
   .
   # h/o cervical cancer: Rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Would require diverting colostomy, will hold off for now per Gyn
   recs.
   - Hematuria: Continue bladder irrigation
   - Urology to see today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-7**] 08:52 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-7**] 04:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-08 11:21:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, GI bleed, cirrhosis,
   hepatic encephalopathy, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient transfused with FFP and PRBC's yesterday; INR down to 1.6.
   Lactate has come down. No further melena.
   Oxygenation remains good without supplemental oxygen.
   Had vomiting today.
   Mental status remains good.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2119-11-8**] 12:00 AM
   Other medications:
   Protonix, lactulose, insulin, aldactone, lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-8**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 86 (64 - 88) bpm
   BP: 104/62(69) {98/43(63) - 134/78(84)} mmHg
   RR: 29 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  3,188 mL
                                                                  1,288 mL
   PO:
             TF:
                                                                    534 mL
                                                                    278 mL
   IVF:
                                                                    800 mL
                                                                    876 mL
   Blood products:
                                                                  1,494 mL
   Total out:
                                                                  4,690 mL
                                                                    800 mL
   Urine:
                                                                  2,450 mL
   NG:
                                                                    140 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,502 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t)
   Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, Diastolic),
   I-II/VI systolic murmur at apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Left, Crackles : Right anterior and lateral, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ ankle, 3+ thigh, Left: 1+ ankle, 3+ thight,
   No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   66 K/uL
   238 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   117 mEq/L
   145 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                            [**2119-11-5**]  04:58 PM
                            [**2119-11-5**]  11:56 PM
                            [**2119-11-6**]  04:18 AM
                            [**2119-11-6**]  03:48 PM
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
   WBC
   9.2
   7.5
   6.2
   8.6
   7.7
   Hct
   26.8
   26.2
   28.4
   25.1
   21.4
   29.9
   29.3
   28.5
   25.2
   27.1
   Plt
   83
   69
   45
   64
   69
   66
   Cr
   1.1
   1.0
   0.9
   0.9
   1.1
   1.1
   Glucose
   186
   249
   206
   [**Telephone/Fax (3) 2301**]
   Other labs: PT / PTT / INR:17.8/34.4/1.6, CK / CKMB / Troponin-T:54//,
   ALT / AST:19/27, Alk Phos / T Bili:85/1.3, Differential-Neuts:78.1 %,
   Band:0.0 %, Lymph:12.7 %, Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:278 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   COAGULOPATHY
   Patient having problems with [**Name2 (NI) 2305**] and vomiting after lactulose. Will
   try pre-treating with Zofran.
   Doing well off the ventilator; no need for supplemental oxygen.
   Bleeding appears to have stopped. Hct stable. Coagulopathy improved
   with FFP. Continue octreotide today.
   Patient alert and responsive. Continue lactulose.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   20 Gauge - [**2119-11-7**] 04:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2119-11-09 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Liver recs: D/c octreotide, currently neither a surgical nor
   transplant candidate [**1-21**] comorbidities. Could be a TIPS candidate if
   re-bleeds. Do not want to repeat EGD at this time as would likely knock
   off recently placed bands. Continue FFP and transfuse PRN. Cont
   aldactone 100 and Lasix  80 daily, lactulose, sucralfate.
   -3p Hct 22 from 27- ordered 2u PRBCS
   -INR from 1.6 to 1.5 after 2 u FFP
   - Urology stopped by- rec to cont Q 4-6 hr hand irrigations and CBI
   - Family mtg planned for tomorrow when daughter will be up from [**Name (NI) 2320**] but no time set yet. Family also asking to meet with social worker
   tomorrow
   -Ordered 2L D5W with 40 K at 150/hr in afternoon for hypernatremia and
   hypokalemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-8**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-9**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 76 (71 - 94) bpm
   BP: 116/55(68) {93/42(55) - 122/74(83)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  4,324 mL
                                                                    699 mL
   PO:
             TF:
                                                                    576 mL
                                                                    182 mL
   IVF:
                                                                  2,095 mL
                                                                    393 mL
   Blood products:
                                                                    933 mL
   Total out:
                                                                  1,650 mL
                                                                  1,700 mL
   Urine:
   1,200 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,674 mL
                                                                 -1,001 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   8.9 g/dL
   179 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   21 mg/dL
   117 mEq/L
   148 mEq/L
   25.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2119-11-6**]  03:48 PM
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
   WBC
   7.5
   6.2
   8.6
   7.7
   7.3
   6.1
   7.4
   Hct
   25.1
   21.4
   29.9
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   Plt
   69
   45
   64
   69
   66
   76
   58
   64
   Cr
   0.9
   0.9
   1.1
   1.1
   1.2
   1.0
   1.1
   Glucose
   [**Telephone/Fax (3) 2321**]38
   162
   467
   179
   Other labs: PT / PTT / INR:16.6/31.7/1.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:78.1 %,
   Band:0.0 %, Lymph:12.7 %, Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes, now clear, now with likely
   Upper GIB
   .
   # Nausea/Vomitting: non-bloody.  Occurs primarily when meds given down
   NG tube.  No residuals on tube feeds.
   - hold TF for now
   - Attempt to pre-treat with Zofran
   - give lactulose first as this is most important for her MS
   - If unable to tolerate, consider PR lactulose
   .
   # Anemia: Hct stablized yesterday after 3 U on [**2119-11-6**].
   Hemodynamically stable.  Most likely from GU. Lactate back down last
   PM.
   - Cont octreotide gtt day 5 of 5, sucralfate
   - f/u liver  recs
   - [**Hospital1 **] Hct
   - 2 large bore peripherals in
   - type and screen active
   - Protonix IV 40mg [**Hospital1 **]
   - Urology to see her today about hematuria
   .
   # MS changed: Now Resolved: (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra prophylaxis per neuro
   - Cont rifaxamin and lactulose
   - can give PR lactulose as above.
   .
   # HCV Cirrhosis: Stable.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone (Now increased to 60, 100 respectively per
   Liver Recs)
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.6  today. Got 3 FFP early yesterday.
   - Give 2 U FFP today for continued GU bleeding
   - Cont to monitor Hcts and INR
   .
   # h/o cervical cancer: Rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Would require diverting colostomy, will hold off for now per Gyn
   recs.
   - Hematuria: Continue bladder irrigation
   - Urology to see today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-09 11:34:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, cirrhosis, GI bleed, anemia,
   hypernatremia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Bleeding has slowed; occaional clots noted in stomach. Nausea and
   vomiting has improved.
   Mental status stable.
   Still hypernatremic despite getting free water yesterday
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-9**] 08:11 AM
   Other medications:
   Lasix, lactulose, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-9**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 90 (71 - 94) bpm
   BP: 124/68(84) {93/42(55) - 127/68(84)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
           Total In:
                                                                  4,325 mL
                                                                  2,666 mL
   PO:
           TF:
                                                                    577 mL
                                                                    341 mL
   IVF:
                                                                  2,095 mL
                                                                  1,125 mL
   Blood products:
                                                                    933 mL
                                                                    375 mL
   Total out:
                                                                  1,650 mL
                                                                  1,850 mL
   Urine:
   1,350 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,675 mL
                                                                    816 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Scattered rales, No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 3+ thigh edema, Left: 3+, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   64 K/uL
   179 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   21 mg/dL
   117 mEq/L
   148 mEq/L
   30.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2119-11-6**]  11:48 PM
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
   WBC
   7.5
   6.2
   8.6
   7.7
   7.3
   6.1
   7.4
   Hct
   21.4
   29.9
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   Plt
   69
   45
   64
   69
   66
   76
   58
   64
   Cr
   0.9
   1.1
   1.1
   1.2
   1.0
   1.1
   Glucose
   [**Telephone/Fax (3) 2328**]62
   467
   179
   Other labs: PT / PTT / INR:16.6/31.7/1.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:78.1 %,
   Band:0.0 %, Lymph:12.7 %, Mono:4.2 %, Eos:4.5 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   Hct is up today. Bleeding appears to have stopped. Hemodynamically
   stable.
   Mental status remains good on lactulose. Will proceed with
   speech/swallow evaluation today.
   Oyxgenation acceptable off supplemental O2. Doing well post extubation.
   Coagulopathy improved with FFP.
   ICU Care
   Nutrition: tube feeding
   Nutren 2.0 (Full) - [**2119-11-9**] 05:57 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25

2119-11-10 07:12:00 Physician Resident Progress Note
Chief Complaint: Hep C cirrhosis s/p multiple UGIB this hospitalization
   24 Hour Events:
   - Bladder irrigant switched to sterile H2O
   - Neuro contact[**Name (NI) **] and stated they want to keep her on Keppra
   - PM lytes showed she still his hypernatremic to 149
   - Family meeting for goals of care -> no new goals (still full code),
   but patient and family more aware and quite realistic about her
   prognosis.  Will rediscuss in [**12-21**] days.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-9**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2119-11-10**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 83 (71 - 90) bpm
   BP: 114/55(68) {97/23(50) - 127/70(84)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  4,617 mL
                                                                    808 mL
   PO:
                                                                     50 mL
             TF:
                                                                    728 mL
                                                                    173 mL
   IVF:
                                                                  1,654 mL
                                                                    260 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,940 mL
                                                                      0 mL
   Urine:
                                                                  2,440 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    677 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at right base, Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   82 K/uL
   10.3 g/dL
   183 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   20 mg/dL
   111 mEq/L
   140 mEq/L
   29.0 %
   8.5 K/uL
        [image002.jpg]
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
   WBC
   6.2
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   Hct
   29.9
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   Plt
   45
   64
   69
   66
   76
   58
   64
   82
   Cr
   0.9
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 2328**]62
   467
   179
   206
   183
   Other labs: PT / PTT / INR:17.1/29.9/1.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive [**10-30**] with acute MS changes, now clear, now with likely
   Upper GIB
   .
   # Nausea/Vomitting: Resolved yesterday when meds given down NG tube
   were split into smaller doses.  No residuals on tube feeds.
   - Attempt to pre-treat with Zofran
   - give lactulose first as this is most important for her MS
   - If unable to tolerate, consider PR lactulose
   .
   # Family meeting today for goals of care
   .
   # Anemia: Hct dropped to 22 yesterday -> transfused. Hemodynamically
   stable.  Most likely from GU. Octreotide d/c
d yesterday.
   - f/u liver  recs
   - [**Hospital1 **] Hct
   - 2 large bore peripherals i
   - type and screen active
   - Protonix IV, and sucralfate
   - per urology, continue q4hr foley flushes and CBI
   .
   # HCV Cirrhosis: Stable.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone (Now increased to 60, 100 respectively per
   Liver Recs)
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.6  today. Got 1 FFP early yesterday.
   - Cont to monitor Hcts and INR
   .
   # h/o cervical cancer: Rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Would require diverting colostomy, will hold off for now per Gyn
   recs.
   - Hematuria: Continue bladder irrigation
   - Urology to see today
   .
   # MS changed: Now Resolved: (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra prophylaxis per neuro
   - Cont rifaxamin and lactulose
   - can give PR lactulose as above.
   .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-11-10 11:04:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, GI bleed, anemia, altered mental status,
   respiratory status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No evidence of further bleeding.
   Respiratory status stable.
   Serum Na elevated today.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-9**] 08:06 PM
   Other medications:
   Lasix, aldactone, kepra, lactulose, tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-10**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 80 (71 - 93) bpm
   BP: 111/64(75) {97/23(50) - 127/70(90)} mmHg
   RR: 20 (19 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  4,617 mL
                                                                  1,704 mL
   PO:
                                                                     50 mL
                                                                     30 mL
   TF:
                                                                    728 mL
                                                                    327 mL
   IVF:
                                                                  1,654 mL
                                                                    782 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,940 mL
                                                                  1,950 mL
   Urine:
                                                                  2,440 mL
                                                                     50 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,900 mL
   Drains:
   Balance:
                                                                    677 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few rales scattered bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 3+ thigh edema, Left: 3+ thigh, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   82 K/uL
   183 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   20 mg/dL
   117 mEq/L
   147 mEq/L
   29.0 %
   8.5 K/uL
        [image002.jpg]
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
   WBC
   6.2
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   Hct
   29.9
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   Plt
   45
   64
   69
   66
   76
   58
   64
   82
   Cr
   0.9
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 2328**]62
   467
   179
   206
   183
   Other labs: PT / PTT / INR:17.1/29.9/1.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Imaging: CXR: slight basilar haziness. No discrete infiltrates or
   effusions.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   HYPERNATREMIA
   Hct stable. No evidence of ongoing bleeding. INR acceptable.
   Mental status is at/near baseline. She is having problems comprehending
   the severity of her chronic medical problems despite lengthy discussion
   that I and the team had with  her last night. She still believes that
   she will go home.
   Patient to receive free water for elevated sodium.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2119-11-10**] 05:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2119-11-10 14:43:00 Physician Resident Progress Note
Chief Complaint: Hep C cirrhosis s/p multiple UGIB this hospitalization
   24 Hour Events:
   - Bladder irrigant switched to sterile H2O
   - Neuro contact[**Name (NI) **] and stated they want to keep her on Keppra
   - PM lytes showed she still his hypernatremic to 149
   - Family meeting for goals of care -> no new goals (still full code),
   but patient and family more aware and quite realistic about her
   prognosis.  Will rediscuss in [**12-21**] days.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-9**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2119-11-10**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 83 (71 - 90) bpm
   BP: 114/55(68) {97/23(50) - 127/70(84)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.4 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  4,617 mL
                                                                    808 mL
   PO:
                                                                     50 mL
             TF:
                                                                    728 mL
                                                                    173 mL
   IVF:
                                                                  1,654 mL
                                                                    260 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,940 mL
                                                                      0 mL
   Urine:
                                                                  2,440 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    677 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at right base, Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   82 K/uL
   10.3 g/dL
   183 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   20 mg/dL
   111 mEq/L
   140 mEq/L
   29.0 %
   8.5 K/uL
        [image002.jpg]
                            [**2119-11-7**]  04:10 AM
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
   WBC
   6.2
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   Hct
   29.9
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   Plt
   45
   64
   69
   66
   76
   58
   64
   82
   Cr
   0.9
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 2328**]62
   467
   179
   206
   183
   Other labs: PT / PTT / INR:17.1/29.9/1.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive on the floor [**10-30**] with acute MS changes, now clear, now
   with likely Upper GIB
   .
   # UGIB: The pt
s HCT was stable this am with last EGD and banding Sat
   11/ 14. During rounds today, she began to have brisk UGIB from NGT. She
   needed to be emergently intubated for airway protection and to allow
   EGD to be performed. At time of this note, EGD was unable to locate
   source of bleeding and [**Last Name (un) 466**] is attempting to be placed to
   stabilize the pt for emergent TIPS procedure.
   - Octreotide gtt
   -S/P 6 units PRBCS, 2 units FFP and 8 more units PRBCS typed and
   crossed today
   # Family meeting today for goals of care
   .
   # Anemia: Hct stable this am but massive UGIB this afternoon with BP
   drop.
   -Liver here seeing pt
   -Cordis placed
   - HCT check ordered
   -Crossmatch ordered for 8 more units
   - Protonix IV, and sucralfate
   .
   # HCV Cirrhosis: Stable but with ongoing UGIB.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone (Now increased to 60, 100 respectively per
   Liver Recs)
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.6  today. Got 2u FFP so far this afternoon.
   - Cont to monitor Hcts and INR
   .
   # h/o cervical cancer: Rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Would require diverting colostomy, will hold off for now per Gyn
   recs.
   - Hematuria: Continue bladder irrigation now with sterile water
   .
   # MS changed: Now Resolved: (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra prophylaxis per neuro
   - Cont rifaxamin and lactulose
   - can give PR lactulose as above.
   .
   #[**Name (NI) 2345**] pt ordered for D5W and sterile water this am prior to
   GIB.
   ICU Care
   Nutrition:
   NPO with NGT to suction
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Cordis placed this afternoon
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Ongoing communications this afternoon with
   both sisters and Son who is HCP
   [**Name (NI) 129**] status: Full code changed to DNR by son who is HCP today
   Disposition:ICU

2119-11-11 06:58:00 Physician Resident Progress Note
Chief Complaint: hep c cirrhosis, UGIB
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2119-11-10**] 01:00 PM
 ENDOSCOPY - At [**2119-11-10**] 02:00 PM
   - Episode of massive hemetamesis
   - Pt placed back on Octreotide drip
   - Received 6 pRBCs, 2 FFP
   - Egd showed huge clots in the esophagus, ?esophageal variceal bleeing
   - [**Last Name (un) 466**] tube was placed- gastric balloon inflated by 250 ml and
   esophageal had to be inflated by 50 ml as bleeding continued
   - Tips was considered but family refused and is heading towards making
   her CMO today when family members arrive from [**State 2062**]
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-10**] 04:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Octreotide
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**1-21**] sedation
   Flowsheet Data as of  [**2119-11-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 116 (78 - 134) bpm
   BP: 99/62(71) {62/39(45) - 142/84(94)} mmHg
   RR: 21 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  8,750 mL
                                                                    439 mL
   PO:
                                                                     60 mL
             TF:
                                                                    376 mL
   IVF:
                                                                  4,998 mL
                                                                    439 mL
   Blood products:
                                                                  2,562 mL
   Total out:
                                                                  4,050 mL
                                                                    200 mL
   Urine:
                                                                    150 mL
                                                                    200 mL
   NG:
                                                                  2,000 mL
   Stool:
                                                                  1,900 mL
   Drains:
   Balance:
                                                                  4,700 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 3,243 (3,243 - 3,243) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, bowel sounds diminished
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   48 K/uL
   10.0 g/dL
   206 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   125 mEq/L
   149 mEq/L
   30.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
                            [**2119-11-10**]  03:10 PM
   WBC
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   7.1
   Hct
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   30.3
   Plt
   64
   69
   66
   76
   58
   64
   82
   48
   Cr
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   0.9
   Glucose
   183
   238
   162
   467
   179
   206
   183
   206
   Other labs: PT / PTT / INR:22.0/79.7/2.1, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:5.1 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive on the floor [**10-30**] with acute MS changes, now clear, now
   with likely Upper GIB
   .
   # UGIB: The pt
s HCT was stable this am with last EGD and banding Sat
   11/ 14. During rounds today, she began to have brisk UGIB from NGT. She
   needed to be emergently intubated for airway protection a nd to allow
   EGD to be performed. At time of this note, EGD was unable to locate
   source of bleeding and [**Last Name (un) 466**] is attempting to be placed to
   stabilize the pt for emergent TIPS procedure.
   - Octreotide gtt
   -S/P 6 units PRBCS, 2 units FFP and 8 more units PRBCS typed and
   crossed today =
   .
   # Anemia: Hct stable this am but massive UGIB this afternoon with BP
   drop.
   -Liver here seeing pt
   -Cordis placed
   - HCT check ordered
   -Crossmatch ordered for 8 more units
   - Protonix IV, and sucralfate
   .
   # HCV Cirrhosis: Stable but with ongoing UGIB.
   - Cont Lactulose, Rifaxamin
   - Cont Lasix, Aldactone (Now increased to 60, 100 respectively per
   Liver Recs)
   - IV PPI [**Hospital1 **] as ordered
   .
   # Coagulopathy:  INR: 1.6  today. Got 2u FFP so far this afternoon.
   - Cont to monitor Hcts and INR
   .
   # h/o cervical cancer: Rectovaginal fistula, with radiation proctitis
   as seen on scope and likely radiation cystitis on CBI.
   - Would require diverting colostomy, will hold off for now per Gyn
   recs.
   - Hematuria: Continue bladder irrigation now with sterile water
   .
   # MS changed: Now Resolved: (Likley was hepatic encephalopathy vs
   post-ictal)
   - continue Keppra prophylaxis per neuro
   - Cont rifaxamin and lactulose
   - can give PR lactulose as above.
   .
   #[**Name (NI) 2345**] pt ordered for D5W and sterile water this am prior to
   GIB.
   ICU Care
   Nutrition: Strict NPO with [**Last Name (un) 466**] tube in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Cordis/Introducer - [**2119-11-10**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2119-11-12 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -After discussion with family, pt was made CMO at approx 2pm. [**Last Name (un) 466**]
   is still in place with intermittent oozing from tube. Pt on pressure
   support but remains intubated. On fentanyl and versed gtts.
   Discontinued CBI, labs and all other medications.  Will transition to
   Morphine Gtt this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-10**] 04:00 PM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-12**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 84 (84 - 128) bpm
   BP: 59/31(38) {47/27(33) - 103/70(77)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                  1,382 mL
                                                                    377 mL
   PO:
             TF:
   IVF:
                                                                  1,382 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,382 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 494 (380 - 510) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 21%
   RSBI Deferred: CMO
   PIP: 6 cmH2O
   Plateau: 18 cmH2O
   SpO2: 91%
   ABG: ////
   Ve: 4.3 L/min
   Physical Examination
   Gen: intubated, unresponsive, not withdrawing to painful stimuli,
   Appears comfortable
   Labs / Radiology
   48 K/uL
   10.0 g/dL
   206 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   125 mEq/L
   149 mEq/L
   30.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
                            [**2119-11-10**]  03:10 PM
   WBC
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   7.1
   Hct
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   30.3
   Plt
   64
   69
   66
   76
   58
   64
   82
   48
   Cr
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   0.9
   Glucose
   183
   238
   162
   467
   179
   206
   183
   206
   Other labs: PT / PTT / INR:22.0/79.7/2.1, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:5.1 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive on the floor [**10-30**] with acute MS changes, now clear, now
   with likely Upper GIB. Patient is CMO
   .
   # UGIB: Pt with massive UGIB likely from esophageal varices yesterday
   stopped by placing [**Last Name (un) 466**]. Family refused TIPS. Patient is currently
   CMO with [**Last Name (un) 466**] still in place to prevent exsanguination.
   .
   # CMO status - patient transitioned this AM to morphine Gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Cordis/Introducer - [**2119-11-10**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:ICU

2119-11-13 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-10**] 04:00 PM
   Infusions:
   Morphine Sulfate - 6 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-13**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 82 (81 - 87) bpm
   BP: 57/28(34) {51/25(32) - 57/28(34)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                    471 mL
                                                                     38 mL
   PO:
             TF:
   IVF:
                                                                    471 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (288 - 440) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 21%
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   10.0 g/dL
   206 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   125 mEq/L
   149 mEq/L
   30.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
                            [**2119-11-10**]  03:10 PM
   WBC
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   7.1
   Hct
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   30.3
   Plt
   64
   69
   66
   76
   58
   64
   82
   48
   Cr
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   0.9
   Glucose
   183
   238
   162
   467
   179
   206
   183
   206
   Other labs: PT / PTT / INR:22.0/79.7/2.1, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:5.1 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Cordis/Introducer - [**2119-11-10**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2119-11-14 07:23:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2119-11-13**] 12:04 PM
 [**Last Name (un) **] D/C - At [**2119-11-13**] 06:22 PM
   Pt remains CMO on a morphine gtt.
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2119-11-14**] 05:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt unable to give- unresponsive
   Flowsheet Data as of  [**2119-11-14**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 120 (80 - 120) bpm
   BP: 75/38(46) {60/29(36) - 75/38(46)} mmHg
   RR: 15 (9 - 17) insp/min
   SpO2: 88%
   Wgt (current): 55 kg (admission): 70 kg
   Height: 65 Inch
             Total In:
                                                                    150 mL
                                                                     58 mL
   PO:
             TF:
   IVF:
                                                                    150 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -100 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (327 - 327) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 21%
   PIP: 5 cmH2O
   SpO2: 88%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   48 K/uL
   10.0 g/dL
   206 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.8 mEq/L
   18 mg/dL
   125 mEq/L
   149 mEq/L
   30.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2119-11-7**]  09:46 AM
                            [**2119-11-7**]  05:21 PM
                            [**2119-11-8**]  04:52 AM
                            [**2119-11-8**]  06:59 AM
                            [**2119-11-8**]  03:00 PM
                            [**2119-11-8**]  11:48 PM
                            [**2119-11-9**]  02:32 AM
                            [**2119-11-9**]  10:34 AM
                            [**2119-11-10**]  02:28 AM
                            [**2119-11-10**]  03:10 PM
   WBC
   8.6
   7.7
   7.3
   6.1
   7.4
   8.5
   7.1
   Hct
   29.3
   28.5
   25.2
   27.1
   22.5
   24.4
   25.5
   30.3
   29.0
   30.3
   Plt
   64
   69
   66
   76
   58
   64
   82
   48
   Cr
   1.1
   1.1
   1.2
   1.0
   1.1
   1.0
   1.0
   0.9
   Glucose
   183
   238
   162
   467
   179
   206
   183
   206
   Other labs: PT / PTT / INR:22.0/79.7/2.1, CK / CKMB / Troponin-T:54//,
   ALT / AST:16/25, Alk Phos / T Bili:85/1.4, Differential-Neuts:71.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:3.0 %, Eos:7.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.6 g/dL, LDH:244 IU/L, Ca++:5.1 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERATION IN NUTRITION
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEPATIC ENCEPHALOPATHY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED SKIN INTEGRITY
   68yo F w/ hx of Hep C cirrhosis, ascites and upper GIB who was found
   unresponsive on the floor [**10-30**] with acute MS changes. S/P massive UGIB
   [**11-10**]. Patient is CMO
   .
   # UGIB: Pt with massive UGIB likely from esophageal varices [**11-10**]
   stopped by placing [**Last Name (un) 466**]. Family refused TIPS. Patient is currently
   CMO with [**Last Name (un) 466**] removed [**11-13**].
   .
   # Resp Failure: Pt remains currently extubated [**11-13**]
   # CMO status
 Pt remains on Morphine gtt
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2119-10-31**] 09:30 AM
   Cordis/Introducer - [**2119-11-10**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:ICU